US06362234B1
Triethylamine (6.26 ml, 45 mmol) and 4-dimethylaminopyridine (50 mg, 0.4 mmol) in methylene chloride (30 ml) were added to a solution of 2,6-diisopropylphenol (5.2 ml, 28 mmol) and adipoyl chloride (4.4 ml, 30 mmol) in methylene chloride (50) at 0° C. The mixture was allowed to reach room temperature and stirred at that temperature for 2 hr. Water (50 ml) was added, and the two-phase mixture was stirred for 1 hr. The organic phase was washed with 3% aqueous HCl and then dried. Solvents were removed under vacuum, and the oily residue was chromatogrammed on a silica gel column using chloroform-methanol (10:0.1) and then chloroform-methanol-acetic acid (10:0.1:0.01). The fractions containing the ester were pooled and evaporated under vacuum to yield 3.4 g (40% yield) of 2,6-diisopropylphenol hydrogen adipate (propofol hemiadipate) as an oil.

reactant | Triethylamine | 45 mmol, 6.26 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-diisopropylphenol | 28 mmol, 5.2 ml | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | adipoyl chloride | 30 mmol, 4.4 ml | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | Water | 50 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.4 mmol, 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2,6-diisopropylphenol hydrogen adipate | 3.4 g, 40% yield | C(CCCCC(=O)OC1=C(C=CC=C1C(C)C)C(C)C)(=O)O | C18H26O4
